US04824958
3-Methoxy-4,5-dimethy-N-1H-tetrazol-5-yl-2-thiophenecarboxamide.
1,1'-Carbonyldiimidazole (4.1 g, 25 mmoles) is added to a solution of 3-methoxy-4,5-dimethyl-2-thiophenecarboxylic acid (4.5 g, 24 mmoles) in tetrahydrofuran (80 mL) under argon. The mixture is stirred and heated under reflux for 1.5 hours. 5-Aminotetrazole (2.0 g, 24 mmoles) is added and heating under reflux is continued for an additional 2.5 hours. The mixture is cooled, and the precipitate is filtered off, rinsed with tetrahydrofuran, dried, and stirred in 2N HCl. After 10 minutes the suspended solid is collected by filtration, rinsed with water and dried to afford the product (4.4 g); mp 229° C. (dec).

reactant | 1,1'-Carbonyldiimidazole | 25 mmoles, 4.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methoxy-4,5-dimethyl-2-thiophenecarboxylic acid | 24 mmoles, 4.5 g | COC1=C(SC(=C1C)C)C(=O)O | C8H10O3S
reactant | 5-Aminotetrazole | 24 mmoles, 2.0 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 3-Methoxy-4,5-dimethy-N-1H-tetrazol-5-yl-2-thiophenecarboxamide | 4.4 g | COC1=C(SC(=C1C)C)C(=O)NC1=NN=NN1 | C9H11N5O2S
